US04755571
glycidyl methacrylate--2.0 g
Mixure A (20.0 g) is mixed with dicyandiamide (0.4 g) and N-(3-chloro-4-methylphenyl)-N',N'-dimethylurea (0.4 g) and the mixture milled in a triple-roll mill until homogeneous. The milled product is then treated with tert.butyl cumyl peroxide (0.5 g), N,N-dimethyl-p-toluidine (0.1 g), o-benzoic sulphimide (0.1 g) and diethyl phosphoro hydrazidate (0.2 g) and mixed until homogeneous.

reactant | dicyandiamide | 0.4 g | C(#N)N=C(N)N | C2H4N4
reactant | N-(3-chloro-4-methylphenyl)-N',N'-dimethylurea | 0.4 g | ClC=1C=C(C=CC1C)NC(=O)N(C)C | C10H13ClN2O
reactant | tert.butyl cumyl peroxide | 0.5 g | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C | C13H20O2
reactant | N,N-dimethyl-p-toluidine | 0.1 g | CN(C1=CC=C(C=C1)C)C | C9H13N
reactant | o-benzoic sulphimide | 0.1 g | C1=CC=C2C(=C1)C(=O)NS2(=O)=O | C7H5NO3S
reactant | diethyl phosphoro hydrazidate | 0.2 g | P(OCC)(OCC)(=O)NN | C4H13N2O3P
product | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
